US07109354B2
b) 4-(5-Hydroxy-biphenyl-3-sulfonyl)-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester
4-(5-tert-butoxy-biphenyl-3-sulfonyl)-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester (55 mg, 0.11 mmol) was dissolved in 1:1 TFA/DCM (10 mL) and stirring for 1 h. Removal of the solvent in vacuo yielded the title compound (48 mg, 98%), which was used without further purification.

reactant | 4-(5-tert-butoxy-biphenyl-3-sulfonyl)-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester | 0.11 mmol, 55 mg | C(C)OC(=O)C=1SC(=C(C1)S(=O)(=O)C=1C=C(C=C(C1)OC(C)(C)C)C1=CC=CC=C1)SC | C24H26O5S3
solvent | TFA DCM | 10 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 4-(5-Hydroxy-biphenyl-3-sulfonyl)-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester | 48 mg, 98% | C(C)OC(=O)C=1SC(=C(C1)S(=O)(=O)C=1C=C(C=C(C1)O)C1=CC=CC=C1)SC | C20H18O5S3
